US06159941
To a solution of propane-1,3-diamine (310 ml, 3.63 mol) in dry pyridine (75 ml) kept under an atmosphere of nitrogen 2-bromopyridine (70 ml, 0.73 mol) was added. The reaction mixture was heated at reflux for 18 h, cooled and the volatiles evaporated in vacuo. To the residue was added tetrahydrofuran (1 l) and the precipitate was filtered off and washed with tetrahydrofuran (0.5 l). The solvent was evaporated in vacuo and the residue purified by distillation at 95-97° C. and 2×10-2 mbar affording 83.37 g (76%) of N-(pyridin-2-yl)propane-1,3-diamine.

reactant | propane-1,3-diamine | 3.63 mol, 310 ml | C(CCN)N | C3H10N2
reactant | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | N-(pyridin-2-yl)propane-1,3-diamine | 83.37 g, 76% | N1=C(C=CC=C1)NCCCN | C8H13N3
